US04616011
7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one
A suspension of 21.9 gm (0.1 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one and 1.5 gm of 10% palladium/charcoal in 200 ml of glacial acetic acid is hydrogenated at 50° C. under a hydrogen pressure of 5 bar. After the catalyst has been filtered off, the solvent is concentrated by evaporation in vacuo, and the residue is taken up in methylene chloride. After extraction with sodium bicarbonate solution and washing with water, the product is dried over magnesium sulfate, evaporated, and purified over silica gel with methylene chloride and then with increasing amounts of methanol (up to 10%).

reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.1 mol, 21.9 gm | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium/charcoal | 1.5 gm | [Pd] | Pd
product | 7,8-Dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | COC1=CC2=C(CC(NCC2)=O)C=C1OC | C12H15NO3
